US07501538B2
(S)-2-[2-(biphenyl4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl-4-ylmethoxy)-phenyl]-propionic acid methyl ester (48 mg) was prepared from (S)-2-(2-hydroxy-benzoylamino)-3-(4-hydroxy-phenyl)-propionic acid methyl ester (175 mg, 0.55 mmol) and 4-biphenylmethyl chloride (240 mg, 1.2 mmol) with K2CO3 (306 mg, 2.2 mmol) as described in Procedure H and purified over silica gel (8:2, DCM-hexanes).

reactant | (S)-2-(2-hydroxy-benzoylamino)-3-(4-hydroxy-phenyl)-propionic acid methyl ester | 0.55 mmol, 175 mg | COC([C@H](CC1=CC=C(C=C1)O)NC(C1=C(C=CC=C1)O)=O)=O | C17H17NO5
reactant | 4-biphenylmethyl chloride | 1.2 mmol, 240 mg | C1=CC=C(C=C1)C2=CC=C(C=C2)CCl | C13H11Cl
reactant | K2CO3 | 2.2 mmol, 306 mg | C(=O)([O-])[O-].[K+].[K+]
product | (S)-2-[2-(biphenyl4-ylmethoxy)-benzoylamino]-3-[4-(biphenyl-4-ylmethoxy)-phenyl]-propionic acid methyl ester | 48 mg | COC([C@H](CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC=C1)OCC1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C43H37NO5
